US07691882B2
3-(3-(5-(4-Methyl-benzyl)-thiophen-2-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (5.00 mL) solution of (5-(4-methyl-benzyl)-thiophen-2-yl)acetohydroximoyl chloride (250 mg, 0.894 mmol) described in Manufacturing Example 92-1-5 and 3-ethynyl-pyridin-2,6-diamine (50.0 mg, 0.376 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (157 μL, 1.13 mmol) at room temperature, which was stirred for 30 minutes at 60° C. Water was added to the reaction solution at room temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1→3:1) to obtain the title compound (49.8 mg, 35.2%).

reactant | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
reactant | (5-(4-methyl-benzyl)-thiophen-2-yl)acetohydroximoyl chloride | 0.894 mmol, 250 mg | CC1=CC=C(CC2=CC=C(S2)CC(=NO)Cl)C=C1 | C14H14ClNOS
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.376 mmol, 50.0 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 1.13 mmol, 157 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(5-(4-Methyl-benzyl)-thiophen-2-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 49.8 mg, 35.2% | CC1=CC=C(CC2=CC=C(S2)CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C21H20N4OS
